US06894061B2
4-{[(R)-8-Fluoro-6-methylphenanthridin-5(6H)-yl]sulfonyl}phenol*
The title compound was prepared from ethyl 4-{[(R)-8-fluoro-6-methylphenanthridin-5(6H)-yl]sulfonyl}phenyl carbonate (0.05 g, 0.11 mmol), a 2.5 N aqueous sodium hydroxide solution (2 mL, 5 mmol), and methanol (2 mL), according to the procedure and in the same manner as described in Example 32, Method A, Step e to yield 4-{[(R)-8-fluoro-6-methylphenanthridin-5(6H)-yl]sulfonyl}phenol* as a solid (0.04 g, 100%), m.p. 193° C.;

reactant | ethyl 4-{[(R)-8-fluoro-6-methylphenanthridin-5(6H)-yl]sulfonyl}phenyl carbonate | 0.11 mmol, 0.05 g | C(OCC)(OC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=C(C=C2[C@H]1C)F)=O | C23H20FNO5S
reactant | sodium hydroxide | 5 mmol, 2.5 N, 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 4-{[(R)-8-fluoro-6-methylphenanthridin-5(6H)-yl]sulfonyl}phenol | FC=1C=C2[C@H](N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)O)C | C20H16FNO3S
